US05476876
To a stirred solution of 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-hydroxy-3-methyl-butan-1-one (2.5 g) in dry methylene chloride (30 mL) cooled to -78° C. is added diethylaminosulfur trifluoride (Aldrich Chemical Co.) (1.2 mL) and the stirring is continued for an additional 45 minutes. The mixture is washed with water and saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, and the solvent is removed under reduced pressure. The crude product is purified by silica gel column chromatography (hexane:ethyl acetate, 9:1) followed by crystallization from petroleum ether to give 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-fluoro-3-methyl-butan-1-one as a white solid, mp 94° C.

reactant | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-hydroxy-3-methyl-butan-1-one | 2.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(C)(C)O)=O | C19H30O3
reactant | diethylaminosulfur trifluoride | 1.2 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-fluoro-3-methyl-butan-1-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC(C)(C)F)=O | C19H29FO2
